US04880809
Using 6-butoxy-2-naphthoic acid (0.5 g), 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (0.7 g), triethylamine (0.85 g), N,N-dimethylformamide (20 ml) and diethyl phosphorocyanidate (0.5 ml), an amidation as that described in Example 6 is carried out. The reaction mixture is purified by silica gel column chromatography (hexane:acetone=3:2). The product is converted to the hydrochloride in a mixture of ethyl acetate and ethyl ether to afford 1-(6-butoxy-2-naphthoyl)-4(3,4,5-trimethoxybenzyl)piperazine hydrochloride (0.7 g) as colorless prisms, m.p. 185°-190° C. (decomp.).

reactant | 6-butoxy-2-naphthoic acid | 0.5 g | C(CCC)OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C15H16O3
reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 0.7 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | triethylamine | 0.85 g | C(C)N(CC)CC | C6H15N
reactant | diethyl phosphorocyanidate | 0.5 ml | P(OCC)(OCC)(=O)C#N | C5H10NO3P
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(6-butoxy-2-naphthoyl)-4(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 0.7 g | Cl.C(CCC)OC=1C=C2C=CC(=CC2=CC1)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C29H36N2O5.ClH/c1-5-6-15-36-25-10-9-22-18-24(8-7-23(22)19-25)29(32)31-13-11-30(12-14-31)20-21-16-26(33-2)28(35-4)27(17-21)34-3;/h7-10,16-19H,5-6,11-15,20H2,1-4H3;1H
